US08865726B2
A mixture of (S)-4-propyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (0.039 g, 0.075 mmol) in DCM (0.4 mL) was treated with trifluoroacetic acid (0.4 mL) at ambient temperature. The mixture was stirred for 18 hours. The solvent was concentrated and the residue was partitioned between EtOAc and aqueous saturated NaHCO3. The aqueous layer was further extracted with EtOAc. The combined organic extracts were washed with brine, dried, concentrated and purified by column chromatography (1-5% 20% 7N ammonia in MeOH/dichloromethane) to give (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-propyloxazolidin-2-one (0.018 g, 62%) as a beige solid. LCMS (APCI+) m/z 390 [M+H]+.

reactant | (S)-4-propyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 0.075 mmol, 0.039 g | C(CC)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C | C26H33N7O3Si
reactant | trifluoroacetic acid | 0.4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 0.4 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-propyloxazolidin-2-one | 0.018 g, 62% | N1N=C(N=C1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2CCC)=O | C20H19N7O2
